US07132426B2
Preparation of 4-[1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-5′-isopropoxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl (Compound A201)
In a 50 mL round-bottomed flask equipped with a N2 inlet septum was placed a stir bar, NaH (60% in mineral oil, 364 mg, 0.91 mmol) and 5′-isopropoxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ol (215 mg, 0.91 mmol). THF (anhydrous, 3 mL) was added to the mixture. The resulting suspension was stirred about 30 min at room temperature. 4-Chloro-1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine (297 mg, 0.91 mmol) was then added in one portion. The mixture was stirred overnight under N2 at room temperature and the resulting slurry turned slightly yellowish. The slurry was added CH2Cl2 and filtered. The filtrate was concentrated under vacuum to give the crude product. Purification by preparative HPLC gave the desired product as an off-white solid. 1H NMR (CDCl3, 400 MHz) δ 1.36 (d, 6H), 2.17 (m, 2H), 2.30 (m, 2H), 3.13 (s, 3H), 3.74 (m, 2H), 3.97 (m, 2H), 4.50 (m, 1H), 5.76 (m, 1H), 7.04 (d, 1H), 7.60 (m, 1H), 7.87 (m, 1H), 7.94 (m, 3H), 8.34 (s, 1H), 8.64 (s, 1H). Exact mass calculated for C26H28FN5O4S 525.18, found 526.2 (MH+)

reactant | NaH | 0.91 mmol, 364 mg | [H-].[Na+]
reactant | 5′-isopropoxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ol | 0.91 mmol, 215 mg | C(C)(C)OC=1C=CC(=NC1)N1CCC(CC1)O | C13H20N2O2
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | 4-Chloro-1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine | 0.91 mmol, 297 mg | ClC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C12H8ClFN4O2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-5′-isopropoxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl | FC1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2OC2CCN(CC2)C2=NC=C(C=C2)OC(C)C | C25H27FN6O4S
